Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
metoclopramide / clonidine / lisinopril
 
Attending: ___.
 
Major Surgical or Invasive Procedure:
None
attach
 
Pertinent Results:
ADMISSION LABS
==============
___ 06:33AM BLOOD WBC-10.1* RBC-3.38* Hgb-8.9* Hct-29.5* 
MCV-87 MCH-26.3 MCHC-30.2* RDW-17.0* RDWSD-54.6* Plt ___
___ 06:33AM BLOOD Neuts-80.4* Lymphs-12.2* Monos-4.5* 
Eos-1.8 Baso-0.4 Im ___ AbsNeut-8.14* AbsLymp-1.23 
AbsMono-0.45 AbsEos-0.18 AbsBaso-0.04
___ 06:33AM BLOOD ___ PTT-36.3 ___
___ 06:33AM BLOOD Glucose-152* UreaN-26* Creat-3.9* Na-140 
K-4.9 Cl-96 HCO3-27 AnGap-17
___ 06:33AM BLOOD ALT-16 AST-19 AlkPhos-190* TotBili-0.3
___ 06:33AM BLOOD CK-MB-3 ___
___ 06:33AM BLOOD cTropnT-0.19*
___ 06:10PM BLOOD Calcium-9.1 Phos-3.7 Mg-1.9
___ 07:12AM BLOOD ___ pO2-49* pCO2-48* pH-7.41 
calTCO2-31* Base XS-4
___ 07:12AM BLOOD Lactate-1.9

PERTINENT STUDIES
=================
___ 06:33AM BLOOD cTropnT-0.19*
___ 06:10PM BLOOD CK-MB-3 cTropnT-0.27*
___ 03:34AM BLOOD CK-MB-2 cTropnT-0.28*
___ 06:42PM BLOOD CK-MB-3 cTropnT-0.27*

IMAGING
=======
CXR ___
Right-sided ___ catheter is unchanged.  Small bilateral 
effusions are 
stable. Pulmonary edema has improved.  Cardiomediastinal 
silhouette is 
stable. No pneumothorax. 
  
DISCHARGE LABS
==============
___ 06:20AM BLOOD WBC-6.9 RBC-2.91* Hgb-7.5* Hct-25.1* 
MCV-86 MCH-25.8* MCHC-29.9* RDW-16.9* RDWSD-52.6* Plt ___
___ 06:20AM BLOOD Glucose-118* UreaN-46* Creat-6.4*# Na-135 
K-4.6 Cl-93* HCO3-25 AnGap-17
___ 06:20AM BLOOD Calcium-8.7 Phos-5.4* Mg-1.9

MICROBIOLOGY
============
Blood Culture, Routine (Final ___:    NO GROWTH. 
Blood Culture, Routine (Final ___:    NO GROWTH. 
REFLEX URINE CULTURE (Final ___:    NO GROWTH. 

 
Brief Hospital Course:
SUMMARY STATEMENT
=================
___ with PMH of HTN, HLD, DM2, ESRD on HD MWF, prostate cancer 
s/p XRT, who presented with worsening dyspnea, orthopnea, and 
non-productive cough. Found to have hypertensive emergency with 
pulmonary edema and hypoxia, now s/p nitro gtt, additional HD 
session, and BiPAP with improvement in symptoms now breathing 
comfortably on room air but continued intermittent hypertension.

TRANSITIONAL ISSUES
===================
PCP:
[] If BP still poorly controlled, could consider losartan (cough 
w ACEi)
[] Consider switching labetalol for carvedilol for intradialytic 
hypertension.

ID/Urology
[] Held antibiotics in the setting of negative urine cultures, 
further evaluation with prostate CT.

ACTIVE ISSUES
=============
#Hypertension
#Hypoxia, resolved:
#Hypertensive emergency, resolved:
#Volume overload:
Patient found to have flash pulmonary edema due to hypertensive 
emergency and ESRD on HD. S/p nitro gtt, BiPAP, and ___ HD 
session ___ in the ICU before transfer to the floor off nitro 
gtt. PE and PNA less likely etiologies of his hypoxemia, which 
resolved.. Unclear reason for persistent hypertension, patient 
notes BPs difficult to control after switching from PD to HD in 
___. Of note patient has had persistent nausea along with 
cough resulting in vomiting of his morning medications, which 
was not observed here. Added minoxidil 5 mg daily to his 
amlodipine, hydralazine (uptitrated this admission) and 
labetalol; challenging dry weight w HD. Immediately after HD 
sessions, appears to be more hypertensive, raising concern for ? 
intradialytic hypertension from exaggerated RAAS activation. The 
patient had persistent cough with an ace inhibitor and ___ 
such as losartan 50 mg could be considered. patient's pressures 
are stable in the 130s-140s in between dialysis with current 
management and can safely return home with close follow up.
 - Continue current regimen of home amlodipine 10mg daily, 
labetalol 400mg TID (further uptitration limited by HR), 
hydralazine 75mg q6h, and minoxidil 5mg
 - Continue home Lasix 80mg PO on non HD-days
 - Consider losartan 50mg  
 - next HD session ___ (MWF schedule)
 - Daily weights

#NSTEMI, type 2:
Patient presented with hypertensive emergency, volume overload. 
Troponin has peaked: 0.19->0.27->0.28->0.27 ___K in the 
setting of ESRD. No active chest pain. EKG initially with c/f 
STDs, now improved. TTE ___ showed mildly dilated RV with mild 
mitral regurgitation and mild pulmonary hypertension, though 
normal LV thickness and normal biventricular systolic function.  
TTE without overt wall motion abnormalities.
 - Started ASA 81mg
 - Consider switching beta-blocker (currently on labetalol) in 
the future to optimize for cardiac mortality benefits 
(carvedilol, clonidine)

#Testicular pain:
#Radiation prostatitis:
#Prostate cancer:
Recently treated (___) for prostatitis/epididymitis with 30 days 
of Bactrim and fluconazole. Now has ongoing testicular pain, 
urethral "itching," and burning pain on urination. Testicles 
very ttp on exam. US ___ showed increased vascular 
heterogeneity of the R epididymal tail, concerning for 
epididymitis. Urine showed >180 WBC, >600 protein, large leuks. 
Given patient history and imaging findings, most likely 
epididymitis which could be secondary to radiation treatment for 
prostate cancer or infection. Seen last by urology visit on 
___ ___ finishing a course of 30 days of 
Bactrim single strength and fluconazole. He recommended another 
4weeks of treatment but was d/c'ed per his infectious disease 
doctor, ___ had planned for a CT scan on ___ of 
prostate for further investigation of prostatitis. Has 
infectious disease appointment on ___ with Dr. ___, 
___ appointment ___ with Dr. ___. 
- held abx given negative UCx
TI:
 - Outpatient urology ___ with Dr. ___
 - CT scan of prostate currently scheduled ___
 - ID outpatient visit ___

#Abdominal discomfort, resolved: 
#Constipation
#RUQ Pain, improved: 
Pt initially felt abd pain on presentation to the hospital on 
___, feeling ttp primarily in the RUQ. Now thought to be 
primarily constipation. RUQ US in ___ showed small stones and 
sludge in the gallbladder. LFTs and lipase WNL. No ttp on exam 
today, abdomen soft. Negative ___.

#Nausea/vomiting after medications, improved
Pt says this regularly happens a few times a week, that he feels 
a cough along with nausea but occasionally results in vomiting 
shortly after taking medications. He notes it happens primarily 
when he takes his medication without food. Unclear etiology at 
this point, although would consider gastroparesis. Patient has 
not vomited since very early on during admission and notes 
improvement with Zofran prn.

#Kidney Mass:
Noted to have a 15 mm lesion in his left kidney during recent 
hospitalization with a renal biopsy planned. 
- continue to follow outpatient as planned

#Possible pulmonary hypertension
Concern for underlying pulmonary hypertension, given PASP31 
31mmHg and mild RV dilation on TTE.

CHRONIC/STABLE ISSUES:
======================
# ESRD on HD MWF:
# Anemia:
Patient had been listed for transplant, now on hold given 
currently being treated for prostate cancer. Previously on PD, 
now on HD since hx of fungal peritonitis. 
-continue HD MWF
-maintain active T&S
-transfuse for Hgb < 7

#HLD:
#PVD:
-Continue home atorvastatin 80mg

#DM2:
- continue home insulin: lantus 8u qhs, add on HISS in-house
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Atorvastatin 80 mg PO QPM 
2. Gabapentin 300 mg PO TID 
3. amLODIPine 10 mg PO DAILY 
4. Labetalol 400 mg PO TID 
5. Tamsulosin 0.4 mg PO QHS 
6. HydrALAZINE 50 mg PO Q6H 
7. Furosemide 80 mg PO 4X/WEEK (___) 
8. Glargine 8 Units Bedtime

 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY 
RX *aspirin [Adult Aspirin Regimen] 81 mg 1 tablet(s) by mouth 
once a day Disp #*30 Tablet Refills:*0 
2.  Minoxidil 5 mg PO DAILY 
RX *minoxidil 2.5 mg 2 tablet(s) by mouth once daily Disp #*60 
Tablet Refills:*0 
3.  Ondansetron 4 mg PO BID 
RX *ondansetron 4 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*0 
4.  HydrALAZINE 75 mg PO Q6H  
5.  Glargine 8 Units Bedtime 
6.  amLODIPine 10 mg PO DAILY  
7.  Atorvastatin 80 mg PO QPM  
8.  Furosemide 80 mg PO 4X/WEEK (___)  
9.  Gabapentin 300 mg PO TID  
10.  Labetalol 400 mg PO TID  
11.  Tamsulosin 0.4 mg PO QHS  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
#Hypertensive Emergency 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,  
It was a pleasure taking care of you at the ___ 
___!  

WHY WAS I IN THE HOSPITAL?  
==========================  
- You had trouble breathing and high blood pressure
- You had testicular pain

WHAT HAPPENED IN THE HOSPITAL?  
==============================  
- We gave you oxygen and a breathing mask to help you breathe in 
the ICU
- You received dialysis and medications to lower your blood 
pressure
- We added another blood pressure medication to your regimen
- We did an ultrasound of your prostate, which showed 
inflammation. We did not find signs of infection.

WHAT SHOULD I DO WHEN I GO HOME?  
================================  
- Please continue to take all of your medications as directed
- Please follow up with all the appointments scheduled with your 
doctor
   -Radiology (CT) ___ - ___
   -Infectious disease (Dr. ___ - ___
   -Urology (Dr. ___ - ___
   -Primary Care (Dr. ___ - ___

Thank you for allowing us to be involved in your care, we wish 
you all the best!  
Your ___ Team 
 
Followup Instructions:
___